US07951815B2
A solution of tert-butyl 3-(S)-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro-[4,5]decane-8-carboxylate (4.4 g, 13.4 mmol) in THF (72 ml) was added dropwise at 0° C. to a suspension of NaH (385 mg, 16.0 mmol) in THF (60 ml). After stirring for 1 h at 0° C., benzyl chloride (2.0 g, 16.0 mmol) was added dropwise, and the mixture was allowed to warm to RT and was heated for 68 h under reflux. The reaction mixture was treated with aqueous saturated NH4Cl solution (20 ml), the organic phase was separated off and the aqueous phase was extracted with EA (3×50 ml). The combined organic phase was dried over Na2SO4, filtered and the solvent was distilled off. The workup was carried out by means of column chromatography and afforded tert-butyl 1-benzyl-3-(S)-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate in a yield of 1.6 g (30%).

reactant | tert-butyl 3-(S)-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro-[4,5]decane-8-carboxylate | 13.4 mmol, 4.4 g | CSCC[C@H]1C(NC2(N1)CCN(CC2)C(=O)OC(C)(C)C)=O | C15H27N3O3S
reactant | NaH | 16.0 mmol, 385 mg | [H-].[Na+]
reactant | benzyl chloride | 16.0 mmol, 2.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
solvent | THF | 72 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | tert-butyl 1-benzyl-3-(S)-(2-methylsulfanylethyl)-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(=O)OC(C)(C)C)CCSC)=O | C22H33N3O3S
